US07902226B2
1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methoxy-7-[3-(R)-[1-(methylamino)cyclopropyl]pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
After adding 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine (102 mg, 379 μmol) and triethylamine (0.50 ml) to dried dimethyl sulfoxide (1 ml, 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid (112 mg, 379 μmol) was added thereto and stirred while heating in an oil bath of 100° C. for 15 hours under a nitrogen atmosphere. After concentrating the reaction solution under a reduced pressure, the residue was dissolved in chloroform (100 ml). After washing the organic layer with a 10% aqueous citric acid solution (100 ml), the organic layer was dried over anhydrous sodium sulfate. After filtering, the filtrate was concentrated under a reduced pressure, and after adding dropwise concentrated hydrochloric acid (2 ml) to the residue while cooling with ice, it was stirred at room temperature for 30 minutes. After adding 1 mol/l hydrochloric acid (2 ml) to the reaction solution and washing the yellow acidic aqueous solution with chloroform (50 ml×4), the pH was adjusted to 12.0 with an aqueous sodium hydroxide solution. After adjusting the pH of the basic aqueous solution to 7.4 with 1 mol/l hydrochloric acid, extraction with chloroform (100 ml×3) was performed. After drying over anhydrous sodium sulfate, the solvent was evapolated under a reduced pressure. The residue thus obtained was then purified by a preparative chromatography (developed into the lower layer of a 7:3:1 mixture of chloroform:methanol:water), purified further by recrystallization from ethanol, and then dried under a reduced pressure. 78.3 mg (50%) of the title compound was thereby obtained in the form of yellow crystals.

reactant | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine | 379 μmol, 102 mg | C(C)(C)(C)OC(=O)N(C)C1(CC1)[C@H]1CNCC1 | C13H24N2O2
reactant | triethylamine | 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid | 379 μmol, 112 mg | FC1=CC=C2C(C(=CN(C2=C1OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F2NO4
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methoxy-7-[3-(R)-[1-(methylamino)cyclopropyl]pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 78.3 mg, 50% | F[C@@H]1[C@@H](C1)N1C=C(C(C2=CC=C(C(=C12)OC)N1C[C@@H](CC1)C1(CC1)NC)=O)C(=O)O | C22H26FN3O4
